
.param    P1_POS   = 0.9      ;Gain
.param    P2_POS   = 0.9      ;Tone
.param    P3_POS   = 0.9      ;Volume
.include "./PartModels/TL072.301"

* generated from Marshall Blues Breaker.schx

****************  GLOBAL SOURCES  ******************************************
VCC       VCC      0            DC 9
VIN       IN       0            SIN(0 50m 500)

****************  VIRTUAL HALF‑SUPPLY  *************************************
R10       VCC      VB           10k
R11       VB       0            10k
C13       VB       0            47u
C11       VCC      0            100u
C12       VCC      0            100n

****************  Potentiometers  ******************************************
RP1_A     N9       N8          {100k * (1-P1_POS)}        ;Gain pot top
RP1_B     N8       N55         {100k * P1_POS}            ;Gain pot bottom
RP2_A     N24      N21         {25k * (1-P2_POS)}         ;Tone pot top
RP2_B     N21      N19         {25k * P2_POS}             ;Tone pot bottom
RP3_A     N99      OUT         {100k * (1-P3_POS)}        ;Volume pot top
RP3_B     OUT      0           {100k * P3_POS}            ;Volume pot bottom

****************  OP AMPS  *************************************************
*XU1       N6    N5     VCC   0    N8       OP07      ;first op amp stage, library subckt
*XU2       VB    N11    VCC   0    N14      OP07      ;second op amp stage, library subckt
XU1       N6    N5     VCC   0    N8       TL072      ;first op amp stage, library subckt
XU2       VB    N11    VCC   0    N14      TL072      ;second op amp stage, library subckt

****************  Passives and diodes  *************************************
RR1 N6 VB 1meg      ;
CC1 N6 IN 10n       ;
RR2 N5 N3 33k       ;
CC2 N3 N4 10n       ;
CC3 0  N4 10n       ;
RR3 N5 N4 27k       ;
CC4 N8 N5 100p      ;
RR99 N5 N55 470k    ;
RR98 N10 VB 1meg    ;
CC5 N10 N9 100n     ;
RR4 N11 N10 10k     ;
RR5 N11 N25 6.8k    ;
RR6 N14 N11 220k    ;
CC99 N14 N11 10p    ;
RR8 IN  0   2.2meg  ;
RR7 N14 N24 1k      ;
CC6 VB N19 10n      ;
CC7 VB N22 10n      ;
RR9 N21 N22 6.8k    ;R11, Series with FB clipping
CC98 N22 N99 1u
DD1 N25 N12 D4148  ;FB clipping
DD2 N12 N14 D4148  ;FB clipping
DD3 N14 N26 D4148  ;FB clipping
DD4 N26 N25 D4148  ;FB clipping

****************  MODELS  (alphabetical)  **********************************
.model    SWMOD   SW(Ron=0.1 Roff=1e9 Vt=0.5 Vh=0.1)
.model D4148   D(IS=2.52e-9 N=1.72 Rs=0.568 Cjo=2pF M=0.333 Vj=0.75 Xti=3)
.subckt IDEALOPAMP 1 2 6         ; +, –, out
EGAIN  7 0  1 2 1e6
Rout   6 7  10
Cout   7 0  1p
.ends  IDEALOPAMP

* Connections: + - V+V-O 
.subckt OP07 3 2 7 4 6
* input
rc1 7  80 8.842E+03
rc2 7  90 8.842E+03
q1  80 102 10 qm1 
q2  90 103 11 qm2 
rb1  2   102 5.000E+02
rb2  3   103 5.000E+02
ddm1 102 104 dm2 
ddm3 104 103 dm2 
ddm2 103 105 dm2 
ddm4 105 102 dm2 
c1  80 90 5.460E-12
re1 10 12 1.948E+03
re2 11 12 1.948E+03
iee 12 4  7.502E-06
re  12 0  2.666E+07
ce  12 0  1.579E-12
* intermediate 
gcm 0  8  12 0  5.668E-11
ga  8  0  80 90 1.131E-04
r2  8  0  1.000E+05
c2  1  8  3.000E-11
gb  1  0  8  0  1.294E+03
* output 
ro1 1  6  2.575E+01
ro2 1  0  3.425E+01
rc  17 0  6.634E-06
gc  0  17 6  0  1.507E+05
d1  1  17 dm1 
d2  17 1  dm1 
d3  6  13 dm2 
d4  14 6  dm2 
vc  7  13 2.803E+00
ve  14 4  2.803E+00
ip  7  4  2.492E-03
dsub 4  7  dm2 
* models 
.model qm1 npn (is=8.000E-16 bf=3.125E+03)
.model qm2 npn (is=8.009E-16 bf=4.688E+03)
.model dm1 d   (is=1.486E-08)
.model dm2 d   (is=8.000E-16)
.ends OP07

****************  Simulation instructions  **********************************
.tran 2u 100m 80m
.op
.control
  run
  print OUT
*  plot v(IN) v(OUT)
  quit
.endc
.end